US07338959B2
5-(4-{[2-(4-Chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-2-methyl-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (103 mg, 0.25 mmol) and 5-amino-2-methyl-benzenesulfonamide (47 mg, 0.25 mmol) as a white solid (106 mg, 71%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 10.17 (br s, 1H), 9.40 (br s, 1H), 8.45 (s, 1H), 7.85 (d, J=6.6 Hz, 1H), 7.62 (m, 2H), 7.49-7.52 (m, 2H), 7.42-7.45 (m, 2H), 7.37 (s, 1H), 7.23-7.31 (m, 4H), 5.75 (m, 1H), 4.72 (d, J=5.7 Hz, 2H), 3.70 (s, 3H), 3.49 (s, 3H), 2.52 (s, 3H). MS (ESI) m/z=561 [M−H]−.

reactant | N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 103 mg | ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C)C3=NC(=NC=C3)Cl)C=C1 | C20H18Cl2N6
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.25 mmol, 47 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | 5-(4-{[2-(4-Chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-2-methyl-benzenesulfonamide hydrochloride | Cl.ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC=3C=CC(=C(C3)S(=O)(=O)N)C)C)C=C1 | InChI=1S/C27H27ClN8O2S.ClH/c1-17-4-9-20(14-24(17)39(29,37)38)32-26-30-13-12-25(34-26)35(2)21-10-11-23-22(15-21)33-27(36(23)3)31-16-18-5-7-19(28)8-6-18;/h4-15H,16H2,1-3H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
